US05556864
41(a) 2-{2-[2-(3-Methoxymethoxyphenyl)ethyl]phenoxymethyl}-1-methylpyrrolidine
Following a procedure similar to that described in Example 38, 1.00 g of 1-t-butoxycarbonyl-2-{2-[2-(3-methoxymethoxyphenyl)ethyl]phenoxymethyl}pyrrolidine [prepared in a similar manner to that described in Example 40(a)] was reacted with a dispersion of 88.1 mg of lithium aluminum hydride in 10 ml of tetrahydrofuran. The mixture was then worked up as described in Example 38, and the crude product thus obtained was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 68 mg (yield 83%) of the title compound as a colorless oil.

reactant | 1-t-butoxycarbonyl-2-{2-[2-(3-methoxymethoxyphenyl)ethyl]phenoxymethyl}pyrrolidine | 1.00 g | C(C)(C)(C)OC(=O)N1C(CCC1)COC1=C(C=CC=C1)CCC1=CC(=CC=C1)OCOC | C26H35NO5
reactant | lithium aluminum hydride | 88.1 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-{2-[2-(3-Methoxymethoxyphenyl)ethyl]phenoxymethyl}-1-methylpyrrolidine | 68 mg, yield 83% | COCOC=1C=C(C=CC1)CCC1=C(OCC2N(CCC2)C)C=CC=C1 | C22H29NO3
